US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 3-[4-(2-chloro-6-fluorobenzyl)piperazino]propylamine were reacted to yield N2-[3-[4-(2-chloro-6-fluorobenzyl)piperazino]propyl]-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.79 (d, 1H, J=3.0 Hz), 7.37 (d, 1H, J=2.4 Hz), 7.19–7.15 (m, 2H), 7.00–6.93 (m, 2H), 6.81 (d, 1H, J=8.7 Hz), 6.56 (d, 1H, J=2.7 Hz), 5.48 (bs, 1H), 4.27–4.21 (m, 4H), 3.70 (d, 2H, J=1.8 Hz), 3.36 (q, 2H, J=6.3 Hz), 2.68–2.35 (m, 10H), 1.75 (q, 2H, J=6.3 Hz); 19F NMR (CDCl3): −31693, −48483; LCMS: ret. time: 18.20 min.; purity: 97%; MS (m/e): 532 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3-[4-(2-chloro-6-fluorobenzyl)piperazino]propylamine | ClC1=C(CN2CCN(CC2)CCCN)C(=CC=C1)F | C14H21ClFN3
product | N2-[3-[4-(2-chloro-6-fluorobenzyl)piperazino]propyl]-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | ClC1=C(CN2CCN(CC2)CCCNC2=NC=C(C(=N2)NC2=CC3=C(C=C2)OCCO3)F)C(=CC=C1)F | C26H29ClF2N6O2
